US06573274B1
N,N-Dimethylformamide (6 ml), triethylamine(0.85 ml), 1,3-bis(diphenylphosphino)propane (346 mg), palladium (II) acetate (188 mg) and methanol (4 ml) were added to 5-bromo-3-(2-chloro-4-(1-propoxy)benzyl)-2-ethyl-3H-imidazo[4,5-b]pyridine (1.07 g) and the mixture was stirred for 8 hr while heating to 85° C. in a 10 atm. carbon monoxide atmosphere. After cooling with ice, water (20 ml) was added to the reaction mixture and the reaction mixture was stirred at room temperature. The precipitated crystals were collected by filtration, washed with water and air-dried. This was applied to silica gel column chromatography, eluted with hexane/ethyl acetate=1/1, and concentrated under reduced pressure. Methanol (5 ml) was added to the obtained crystals and heated on a hot water bath. The mixture was stirred under ice-cooling, and the precipitate was collected by filtration and washed with cooled methanol to give methyl 3-(2-chloro-4-(1-propoxy)benzyl)-2-ethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate as bright yellow crystals (816 mg).

reactant | N,N-Dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 1,3-bis(diphenylphosphino)propane | 346 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 5-bromo-3-(2-chloro-4-(1-propoxy)benzyl)-2-ethyl-3H-imidazo[4,5-b]pyridine | 1.07 g | BrC1=CC=C2C(=N1)N(C(=N2)CC)CC2=C(C=C(C=C2)OCCC)Cl | C18H19BrClN3O
reactant | carbon monoxide | [C]=O | CO
reactant | water | 20 ml | O | H2O
catalyst | palladium (II) acetate | 188 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol | 4 ml | CO | CH4O
solvent | triethylamine | 0.85 ml | C(C)N(CC)CC | C6H15N
product | methyl 3-(2-chloro-4-(1-propoxy)benzyl)-2-ethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 816 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)CC)C=CC(=C1)OCCC | C20H22ClN3O3
